US07078428B2
5-Isopropyloxy-3-hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one is prepared as described in Example 1, starting with 1.16 g of N-isobutyl-4-isopropyloxyphthalimide in 20 cm3 of methanol and 0.24 g of potassium borohydride. The reaction mixture is stirred at a temperature in the region of 20° C. for 17 hours and then cooled to a temperature in the region of 0° C. and 30 cm3 of distilled water are added dropwise. The methanol is then partially evaporated off under reduced pressure (2 kPa) at a temperature in the region of 40° C., and 50 cm3 of water are added. The aqueous phase is extracted 3 times with 70 cm3 of ethyl acetate. The organic extracts are combined, washed with 100 cm3 of saturated sodium chloride solution, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1.08 g of 5-isopropyloxy-3-hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one are thus obtained in the form of a viscous colorless oil. (Rf=0.50, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (50/50 by volume)).

reactant | N-isobutyl-4-isopropyloxyphthalimide | 1.16 g | C(C(C)C)N1C(C=2C(C1=O)=CC(=CC2)OC(C)C)=O | C15H19NO3
reactant | water | 30 cm3 | O | H2O
solvent | methanol | 20 cm3 | CO | CH4O
solvent | potassium borohydride | 0.24 g | [BH4-].[K+]
product | 5-isopropyloxy-3-hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one | 1.08 g | C(C)(C)OC=1C=C2C(N(C(C2=CC1)=O)CC(C)C)O | C15H21NO3
